US08980877B2
(±)-(E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester (300 mg, 0.767 mmol) was hydrolyzed with aqueous 20% HCl solution and AcOH following the procedure described in Example 1, Step A, giving (±)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid (250 mg) as a white solid (hydrochloride salt).

reactant | (±)-(E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester | 0.767 mmol, 300 mg | COC(\C=C\C=1C=C2C(CC3(CN(CCC3)CC3=CC=CC=C3)OC2=CC1)=O)=O | C24H25NO4
reactant | HCl | Cl | ClH
solvent | AcOH | CC(=O)O | C2H4O2
product | (±)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid | 250 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C23H23NO4
